US04971993
N-t-butyloxycarbonyl-L-methionine dicyclohexylamine salt (44.36 g, 103 mmole), L-proline benzylester hydrochloride (2490 g, 103 mmole) and HOBT (13.92 g, 103 mmole) were dissolved in methylene chloride (400 ml), and WSC hydrochloride (19.75 g, 103 mmole) were added thereto at -30C. The mixture was stirred for 2 hours at less than 0° C., N,N-dimethylformamide (100 ml) was added thereto, and stirred further overnight at room temperature. The solution was washed with 5% aqueous sodium bicarbonate (400 ml, twice), 5% aqueous citric acid (400 ml, twice) and water (400 ml) in the order given, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain N-t-butyloxycarbonyl-L-methionyl-L-proline benzylester (yield: 46.27 g, 100%)

reactant | N-t-butyloxycarbonyl-L-methionine dicyclohexylamine salt | 103 mmole, 44.36 g | C1(CCCCC1)NC1CCCCC1.C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)O
reactant | L-proline benzylester hydrochloride | 103 mmole, 2490 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | HOBT | 103 mmole, 13.92 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 103 mmole, 19.75 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-t-butyloxycarbonyl-L-methionyl-L-proline benzylester | yield: 46.27 g, 100% | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CCSC)=O)=O | C22H32N2O5S
